### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/GroupCohomology/LowDegree): `H¹(G, A) ≃ Hom(G, A)` for a trivial representation

### PR DESCRIPTION
**Pull request by 101damnations**
---

Given a trivial representation of a group `G` on a `k`-module `A`, this PR defines the isom `H¹(G, A) ≃ₗ[k] Additive G →+ A`.
It also adds a predicate for when a representation is trivial, `isTrivial`.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 1]
```diff
@@ -55,22 +58,22 @@ section Cochains
 
 /-- The 0th object in the complex of inhomogeneous cochains of `A : Rep k G` is isomorphic
 to `A` as a `k`-module. -/
-def zeroCochainsLinearEquiv : (inhomogeneousCochains A).X 0 ≃ₗ[k] A :=
+def zeroCochainsLequiv : (inhomogeneousCochains A).X 0 ≃ₗ[k] A :=
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:61]: I would prefer we keep the full `LinearEquiv` part in the names. If you would like to reduce the number of characters, you may alternatively use `cochains₀LinearEquiv`, etc.

File: Mathlib/RepresentationTheory/Rep.lean [hunk 2]
```diff
@@ -136,6 +136,18 @@ theorem trivial_def {V : Type u} [AddCommGroup V] [Module k V] (g : G) (v : V) :
 set_option linter.uppercaseLean3 false in
 #align Rep.trivial_def Rep.trivial_def
 
+/-- A predicate for representations that fix every element. -/
+class isTrivial (A : Rep k G) : Prop :=
+(out : ∀ g x, A.ρ g x = x)
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/Rep.lean:141]: The more standard Mathlib4 syntax would be
```suggestion
class IsTrivial (A : Rep k G) : Prop where
  out : ∀ g x, A.ρ g x = x
```
In my understanding, `IsTrivial` should be capitalized.

Then, in order to use the assumption, instead of given a name like `[h : ρ.isTrivial]`, you should define a simp lemma `Rep.ρ_apply_eq_self` (or something like that).

Also, you may try to declare this as `  out : ∀ g x, A.ρ g x = x := by aesop` instead so that the next instances could be defined just as
`instance {V : Type u} [AddCommGroup V] [Module k V] : IsTrivial (Rep.trivial k G V) where`
where the proof would be automatically found by aesop (and if aesop does not, add suitable simp lemmas until it does!).

(Same remarks should also apply to the similar definition in `Basic.lean.`)

**Review by joelriou — APPROVED** [review]
I have added some comments. (I think you could also add the computation on the `H^0` of trivial representations in this PR. For this, it would be useful to state the zeroth differential is zero as a separate lemma, and use it in the proof of `oneCoboundaries_eq_bot_of_isTrivial`)

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:61]: (Actually, there are some occurrences of `Lequiv` in the linear algebra files, so that it is presumably ok.)

Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:61]: Yeah, I noticed `Lequiv` in some other files so just copied it.

File: Mathlib/RepresentationTheory/Rep.lean (hunk 2 above)
Comment (101damnations) [reply Mathlib/RepresentationTheory/Rep.lean]: Thank you! Done, and made `Rep.IsTrivial A` an abbreviation for `Representation.IsTrivial A.ρ` so we just need one simp lemma.

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 3]
```diff
@@ -210,49 +216,83 @@ def twoCocycles : Submodule k (G × G → A) := LinearMap.ker (dTwo A)
...
+theorem oneCocycles_map_mul_of_isTrivial [A.IsTrivial] (f : oneCocycles A) (g h : G) :
+    f.1 (g * h) = f.1 g + f.1 h := by
+  rw [(mem_oneCocycles_iff f.1).1 f.2, apply_eq_self A.ρ g (f.1 h), add_comm]
+
+theorem mem_oneCocycles_of_addMonoidHom [A.IsTrivial] (f : Additive G →+ A) :
+    f ∘ Additive.ofMul ∈ oneCocycles A :=
+(mem_oneCocycles_iff _).2 fun g h => by
+  simp only [Function.comp_apply, ofMul_mul, map_add,
+    oneCocycles_map_mul_of_isTrivial, apply_eq_self A.ρ g (f (Additive.ofMul h)),
+    add_comm (f (Additive.ofMul g))]
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:246]:
```suggestion
  (mem_oneCocycles_iff _).2 fun g h => by
    simp only [Function.comp_apply, ofMul_mul, map_add,
      oneCocycles_map_mul_of_isTrivial, apply_eq_self A.ρ g (f (Additive.ofMul h)),
      add_comm (f (Additive.ofMul g))]
```

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean [hunk 4]
```diff
@@ -322,4 +367,42 @@ abbrev H2 := twoCocycles A ⧸ twoCoboundaries A
...
+
+end H0
+section H1
+
+/-- When `A : Rep k G` is a trivial representation of `G`, `H¹(G, A)` is isomorphic to the
+group homs `G → A`. -/
+def H1LequivOfIsTrivial [A.IsTrivial] :
+    H1 A ≃ₗ[k] Additive G →+ A :=
+(Submodule.quotEquivOfEqBot _ (oneCoboundaries_eq_bot_of_isTrivial A)).trans
+  (oneCocyclesLequivOfIsTrivial A)
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean:393]:
```suggestion
  (Submodule.quotEquivOfEqBot _ (oneCoboundaries_eq_bot_of_isTrivial A)).trans
    (oneCocyclesLequivOfIsTrivial A)
```

File: Mathlib/RepresentationTheory/Invariants.lean [hunk 5]
```diff
@@ -91,6 +91,10 @@ theorem invariants_eq_inter : (invariants ρ).carrier = ⋂ g : G, Function.fixe
   ext; simp [Function.IsFixedPt]
 #align representation.invariants_eq_inter Representation.invariants_eq_inter
 
+theorem invariants_eq_top [ρ.IsTrivial] :
+    invariants ρ = ⊤ :=
+eq_top_iff.2 (fun x _ g => ρ.apply_eq_self g x)
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/Invariants.lean:96]:
```suggestion
  eq_top_iff.2 (fun x _ g => ρ.apply_eq_self g x)
```

**Review by joelriou — APPROVED** [review]
Apart from the whitespace codeing style issues, this looks good to me!

bors d+

File: Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean (hunk 3 above)
Comment (101damnations) [reply Mathlib/RepresentationTheory/GroupCohomology/LowDegree.lean]: Whoops, thank you!

**Comment by joelriou** [comment]
maintainer merge

**Comment by robertylewis** [comment]
Sorry, this was a `bors d+` that went into the void followed by a `bors r+` caught by the revived bot.

bors merge
